US08633173B2
164 d) N(8)-(2-Methanesulfonylmethyl-phenyl)-N(2)-[4-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepare from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonylmethyl-phenyl)-amine (75.0 mg, 0.223 mmol) and 4-(4-Methyl-piperazin-1-yl)-phenylamine (47.0 mg, 0.246 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a brown foam (0.013 g, 12%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.96 (d, J=6.8 Hz, 1H), 7.70 (s, 1H), 7.56 (d, J=8.2 Hz, 1H), 7.51 (d, J=8.8 Hz, 2H), 7.43-7.37 (m, 2H), 7.18 (t, J=7.4 Hz, 1H), 6.96 (d, J=8.8 Hz, 2H), 6.83 (d, J=7.8 Hz, 1H), 6.70 (s, 1H), 6.67 (t, J=7.1 Hz, 1H), 4.45 (s, 2H), 3.18-3.13 (m, 4H), 2.94 (s, 3H), 2.62-2.57 (m, 4H), 2.36 (s, 3H). MS=492 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonylmethyl-phenyl)-amine | 0.223 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC=C2)CS(=O)(=O)C)=N1 | C14H13ClN4O2S
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.246 mmol, 47.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methanesulfonylmethyl-phenyl)-N(2)-[4-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)CC1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C25H29N7O2S
